### PR TITLE
[Merged by Bors] - feat(Homology/ModuleCat): Dimension Shifting tools in ModuleCat

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR we present some  dimension shifting tools in `ModuleCat`.

---

- [x] depends on: #32312

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 1]
```diff
@@ -0,0 +1,115 @@
...
+  rcases Module.Finite.exists_fin' R M with ⟨m, f', hf'⟩
+  let f := f'.comp ((Finsupp.mapRange.linearEquiv (Shrink.linearEquiv.{v} R R)).trans
+      (Finsupp.linearEquivFunOnFinite R R (Fin m))).1
+  use (Fin m →₀ Shrink.{v, u} R), inferInstance, inferInstance, inferInstance, inferInstance, f
+  simpa [f] using hf'
+
+variable {R M N}
+
+/-- Given a linear map `f : M → N`, we can obtain a short complex `ker(f) → M → N`. -/
+abbrev LinearMap.shortComplexG (f : M →ₗ[R] N) : ShortComplex (ModuleCat.{v} R) where
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]: What does the `G` stand for in this name?

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 2]
```diff
@@ -0,0 +1,115 @@
...
+  epi_g := (ModuleCat.epi_iff_surjective _).mpr h
+
+/-- The standard short complex `N → P → M` with `P` projective. -/
+noncomputable abbrev ModuleCat.projective_shortComplex [Small.{v} R] (M : ModuleCat.{v} R) :
+    ShortComplex (ModuleCat.{v} R) :=
+  let e : Module.Basis M R (M →₀ Shrink.{v} R) :=
+    ⟨Finsupp.mapRange.linearEquiv (Shrink.linearEquiv.{v} R R)⟩
+  (e.constr ℕ id).shortComplexG
+
+theorem ModuleCat.projective_shortComplex_shortEaxct [Small.{v} R] (M : ModuleCat.{v} R) :
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]:
```suggestion
theorem ModuleCat.projective_shortComplex_shortExact [Small.{v} R] (M : ModuleCat.{v} R) :
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 3]
```diff
@@ -0,0 +1,115 @@
...
+instance [Small.{v} R] (M : ModuleCat.{v} R) : Module.Free R M.projective_shortComplex.X₂ :=
+  Module.Free.finsupp R _ _
+
+/-- The standard short complex `N → P → M` with `P` projective. -/
+noncomputable abbrev ModuleCat.injective_shortComplex [Small.{v} R] (M : ModuleCat.{v} R) :
+    ShortComplex (ModuleCat.{v} R) :=
+  let IP := Classical.choice (EnoughInjectives.presentation M)
+  ShortComplex.mk IP.3 (Limits.cokernel.π IP.3) (Limits.cokernel.condition IP.3)
+
+theorem ModuleCat.injective_shortComplex_shortEaxct [Small.{v} R] (M : ModuleCat.{v} R) :
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]:
```suggestion
theorem ModuleCat.injective_shortComplex_shortExact [Small.{v} R] (M : ModuleCat.{v} R) :
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean (hunk 1 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]: It means putting `f` at `ShortComplex.g`, there is a dual version `shortComplexF` but not used in my applications.

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 4]
```diff
@@ -0,0 +1,115 @@
...
+  simp [Module.Basis.constr_apply]
+
+instance [Small.{v} R] (M : ModuleCat.{v} R) : Module.Free R M.projective_shortComplex.X₂ :=
+  Module.Free.finsupp R _ _
+
+/-- The standard short complex `N → P → M` with `P` projective. -/
+noncomputable abbrev ModuleCat.injective_shortComplex [Small.{v} R] (M : ModuleCat.{v} R) :
+    ShortComplex (ModuleCat.{v} R) :=
+  let IP := Classical.choice (EnoughInjectives.presentation M)
+  ShortComplex.mk IP.3 (Limits.cokernel.π IP.3) (Limits.cokernel.condition IP.3)
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]: This is not specific to `ModuleCat`. This short complex should be defined more generally for `I : InjectivePresentation X`.
I am not sure we need to introduce a definition which chooses an embedding in an injective: I would rather put this choice in the lemmas which require making such a choice.

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 5]
```diff
@@ -0,0 +1,115 @@
...
+instance Module.free_shrink [Module.Free R M] [Small.{w} M] : Module.Free R (Shrink.{w} M) :=
+  Module.Free.of_equiv (Shrink.linearEquiv R M).symm
+
+instance Module.finite_shrink [Module.Finite R M] [Small.{w} M] : Module.Finite R (Shrink.{w} M) :=
+  Module.Finite.equiv (Shrink.linearEquiv R M).symm
+
+theorem Module.exists_finite_presentation [Small.{v} R] (M : Type v) [AddCommGroup M] [Module R M]
+    [Module.Finite R M] :
+    ∃ (P : Type v) (_ : AddCommGroup P) (_ : Module R P) (_ : Module.Free R P)
+      (_ : Module.Finite R P) (f : P →ₗ[R] M), Function.Surjective f := by
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]: There are many definitions in this file which are probably not in the best file. Could you investigate, for each single definition/theorem/instance, what would be the best file to put them? For example, an instance regarding `Module.Finite` may probably be put in one of the basic API file for `Module.Finite`. Similarly for `Module.Free`, etc.

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]: I would suggest `LinearMap.shortComplexKer`.

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]: I would like to do this after the golf of the whole project, since moving to earlier file would increase quite some build time.

File: Mathlib/RingTheory/Noetherian/Basic.lean [hunk 6]
```diff
@@ -357,3 +357,25 @@ instance {ι} [Finite ι] : ∀ {R : ι → Type*} [Π i, Semiring (R i)] [∀ i
...
+
+variable (R : Type u) [CommRing R]
+
+variable (M : Type v) [AddCommGroup M] [Module R M] (N : Type v) [AddCommGroup N] [Module R N]
+
+instance Module.free_shrink [Module.Free R M] [Small.{w} M] : Module.Free R (Shrink.{w} M) :=
+  Module.Free.of_equiv (Shrink.linearEquiv R M).symm
+
+instance Module.finite_shrink [Module.Finite R M] [Small.{w} M] : Module.Finite R (Shrink.{w} M) :=
+  Module.Finite.equiv (Shrink.linearEquiv R M).symm
```
Comment (erdOne) [inline Mathlib/RingTheory/Noetherian/Basic.lean]: These shouldn't be here.

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 7]
```diff
@@ -0,0 +1,93 @@
...
+  f := ModuleCat.ofHom.{v} (LinearMap.ker f).subtype
+  g := ModuleCat.ofHom.{v} f
+  zero := by ext; simp
+
+theorem LinearMap.shortExact_shortComplexKer {f : M →ₗ[R] N} (h : Function.Surjective f) :
+    f.shortComplexKer.ShortExact where
+  exact := (ShortComplex.ShortExact.moduleCat_exact_iff_function_exact _).mpr
+    fun _ ↦ by simp [shortComplexKer]
+  mono_f := (ModuleCat.mono_iff_injective _).mpr (LinearMap.ker f).injective_subtype
+  epi_g := (ModuleCat.epi_iff_surjective _).mpr h
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]: These shouldn't be here.

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 8]
```diff
@@ -0,0 +1,93 @@
...
+
+instance [Small.{v} R] (M : ModuleCat.{v} R) : Module.Free R M.projective_shortComplex.X₂ :=
+  Module.Free.finsupp R _ _
+
+/-- The standard short complex `N → P → M` with `P` projective. -/
+noncomputable abbrev CategoryTheory.InjectivePresentation.shortComplex
+    {M : ModuleCat.{v} R} (ip : InjectivePresentation M) : ShortComplex (ModuleCat.{v} R) :=
+  ShortComplex.mk ip.3 (Limits.cokernel.π ip.3) (Limits.cokernel.condition ip.3)
+
+theorem CategoryTheory.InjectivePresentation.shortComplex_shortExact {M : ModuleCat.{v} R}
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]:
```suggestion
theorem CategoryTheory.InjectivePresentation.shortExact_shortComplex {M : ModuleCat.{v} R}
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 9]
```diff
@@ -0,0 +1,93 @@
...
+    (ip : InjectivePresentation M) : ip.shortComplex.ShortExact :=
+  { exact := ShortComplex.exact_cokernel ip.3
+    mono_f := ip.4
+    epi_g := Limits.coequalizer.π_epi }
+
+instance {M : ModuleCat.{v} R} (ip : InjectivePresentation M) : Injective ip.shortComplex.X₂ := ip.2
+
+/-- The connection maps in the contravariant long exact sequence of `Ext` are surjective if
+the middle term of the short exact sequence is projective. -/
+theorem extClass_precomp_surjective_of_projective_X₂ [Small.{v} R]
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]:
```suggestion
theorem precomp_extClass_surjective_of_projective_X₂ [Small.{v} R]
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 10]
```diff
@@ -0,0 +1,93 @@
...
+
+universe v u
+
+variable {R : Type u} [CommRing R]
+
+variable {M : Type v} [AddCommGroup M] [Module R M] {N : Type v} [AddCommGroup N] [Module R N]
+
+open CategoryTheory Abelian
+
+/-- Given a linear map `f : M → N`, we can obtain a short complex `ker(f) → M → N`. -/
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]:
```suggestion
/-- Given a linear map `f : M → N`, we can obtain a short complex `0 → ker(f) → M → N`. -/
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 11]
```diff
@@ -0,0 +1,93 @@
...
+  zero := by ext; simp
+
+theorem LinearMap.shortExact_shortComplexKer {f : M →ₗ[R] N} (h : Function.Surjective f) :
+    f.shortComplexKer.ShortExact where
+  exact := (ShortComplex.ShortExact.moduleCat_exact_iff_function_exact _).mpr
+    fun _ ↦ by simp [shortComplexKer]
+  mono_f := (ModuleCat.mono_iff_injective _).mpr (LinearMap.ker f).injective_subtype
+  epi_g := (ModuleCat.epi_iff_surjective _).mpr h
+
+/-- The standard short complex `N → P → M` with `P` projective. -/
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]:
```suggestion
/-- The standard short complex `0 → N → P → M → 0` with `P = R^{⊕M}` free. -/
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 12]
```diff
@@ -0,0 +1,93 @@
...
+noncomputable abbrev ModuleCat.projective_shortComplex [Small.{v} R] (M : ModuleCat.{v} R) :
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]:
```suggestion
noncomputable abbrev ModuleCat.projectiveShortComplex [Small.{v} R] (M : ModuleCat.{v} R) :
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 13]
```diff
@@ -0,0 +1,93 @@
...
+    ShortComplex (ModuleCat.{v} R) :=
+  let e : Module.Basis M R (M →₀ Shrink.{v} R) :=
+    ⟨Finsupp.mapRange.linearEquiv (Shrink.linearEquiv.{v} R R)⟩
+  (e.constr ℕ id).shortComplexKer
+
+theorem ModuleCat.projective_shortComplex_shortExact [Small.{v} R] (M : ModuleCat.{v} R) :
```
Comment (erdOne) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]:
```suggestion
theorem ModuleCat.shortExact_projectiveShortComplex [Small.{v} R] (M : ModuleCat.{v} R) :
```

File: Mathlib/RingTheory/Noetherian/Basic.lean (hunk 6 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Noetherian/Basic.lean]: No, find home suggested this place, otherwise there isn't `Shrink.linearEquiv` in the file

Comment (joelriou) [reply Mathlib/RingTheory/Noetherian/Basic.lean]: This should probably go in the file where `Module.Free` (resp. `Module.Finite`) is defined, even if the consequence is an additional small import.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada: 

bors d+

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 14]
```diff
@@ -0,0 +1,80 @@
...
+    {M : ModuleCat.{v} R} (ip : InjectivePresentation M) : ShortComplex (ModuleCat.{v} R) :=
+  ShortComplex.mk ip.3 (Limits.cokernel.π ip.3) (Limits.cokernel.condition ip.3)
+
+theorem CategoryTheory.InjectivePresentation.shortExact_shortComplex {M : ModuleCat.{v} R}
+    (ip : InjectivePresentation M) : ip.shortComplex.ShortExact :=
+  { exact := ShortComplex.exact_cokernel ip.3
+    mono_f := ip.4
+    epi_g := Limits.coequalizer.π_epi }
+
+instance {M : ModuleCat.{v} R} (ip : InjectivePresentation M) : Injective ip.shortComplex.X₂ := ip.2
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]: Could you move this to the file `Mathlib/CategoryTheory/Abelian/Injective/Resolution.lean` as it holds in any abelian category?

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]: It added some imports, is it OK? @joelriou

File: Mathlib/CategoryTheory/Abelian/Injective/Resolution.lean [hunk 15]
```diff
@@ -339,4 +341,19 @@ instance (priority := 100) : HasInjectiveResolutions C where out _ := inferInsta
 
 end InjectiveResolution
 
+variable [Abelian C]
+
+/-- Given an injective presentaion `M → I`, the short complex `0 → M → I → N → 0`. -/
+noncomputable abbrev InjectivePresentation.shortComplex
+    {X : C} (ip : InjectivePresentation X) : ShortComplex C :=
+  ShortComplex.mk ip.3 (Limits.cokernel.π ip.3) (Limits.cokernel.condition ip.3)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Injective/Resolution.lean]: Could you replace `ip.3`, etc by the field name? Note also that `ip.2` and `ip.4` are instances, so that `by_instance` should work.

File: Mathlib/CategoryTheory/Abelian/Injective/Resolution.lean [hunk 16]
```diff
@@ -339,4 +341,19 @@ instance (priority := 100) : HasInjectiveResolutions C where out _ := inferInsta
...
+
+theorem InjectivePresentation.shortExact_shortComplex {X : C}
+    (ip : InjectivePresentation X) : ip.shortComplex.ShortExact :=
+  { exact := ShortComplex.exact_cokernel ip.3
+    mono_f := ip.4
+    epi_g := Limits.coequalizer.π_epi }
+
+instance {X : C} (ip : InjectivePresentation X) : Injective ip.shortComplex.X₂ := ip.2
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Injective/Resolution.lean]: This does not seem to be necessary:
```suggestion
```

File: Mathlib/CategoryTheory/Abelian/Injective/Resolution.lean [hunk 17]
```diff
@@ -339,4 +341,19 @@ instance (priority := 100) : HasInjectiveResolutions C where out _ := inferInsta
...
+/-- Given an injective presentaion `M → I`, the short complex `0 → M → I → N → 0`. -/
+noncomputable abbrev InjectivePresentation.shortComplex
+    {X : C} (ip : InjectivePresentation X) : ShortComplex C :=
+  ShortComplex.mk ip.3 (Limits.cokernel.π ip.3) (Limits.cokernel.condition ip.3)
+
+theorem InjectivePresentation.shortExact_shortComplex {X : C}
+    (ip : InjectivePresentation X) : ip.shortComplex.ShortExact :=
+  { exact := ShortComplex.exact_cokernel ip.3
+    mono_f := ip.4
+    epi_g := Limits.coequalizer.π_epi }
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Abelian/Injective/Resolution.lean]:
```suggestion
  { exact := ShortComplex.exact_cokernel _ }
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 18]
```diff
@@ -0,0 +1,67 @@
...
+
+/-- The connection maps in the contravariant long exact sequence of `Ext` are surjective if
+the middle term of the short exact sequence is projective. -/
+theorem precomp_extClass_surjective_of_projective_X₂ [Small.{v} R]
+    (M : ModuleCat.{v} R) {S : ShortComplex (ModuleCat.{v} R)} (h : S.ShortExact) (n : ℕ)
+    [Projective S.X₂] : Function.Surjective (h.extClass.precomp M (add_comm 1 n)) := by
+  let _ := Ext.subsingleton_of_projective S.X₂ M
+  have epi := (Ext.contravariant_sequence_exact₃' h M n (n + 1) (add_comm 1 n)).epi_f
+    ((AddCommGrpCat.of (Ext S.X₂ M (n + 1))).isZero_of_subsingleton.eq_zero_of_tgt _)
+  exact (AddCommGrpCat.epi_iff_surjective _).mp epi
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]:
```suggestion
    [Projective S.X₂] : Function.Surjective (h.extClass.precomp M (add_comm 1 n)) :=
  fun x ↦ Ext.contravariant_sequence_exact₃ h M x (Ext.eq_zero_of_projective _) (add_comm 1 n)
```

File: Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean [hunk 19]
```diff
@@ -0,0 +1,67 @@
...
+
+/-- The connection maps in the covariant long exact sequence of `Ext` are surjective if
+the middle term of the short exact sequence is injective. -/
+theorem postcomp_extClass_surjective_of_projective_X₂ [Small.{v} R]
+    {S : ShortComplex (ModuleCat.{v} R)} (h : S.ShortExact) (M : ModuleCat.{v} R) (n : ℕ)
+    [Injective S.X₂] : Function.Surjective (h.extClass.postcomp M (rfl : n + 1 = n + 1)) := by
+  let _ := Ext.subsingleton_of_injective M S.X₂
+  have epi := (Ext.covariant_sequence_exact₁' M h n (n + 1) rfl).epi_f
+    ((AddCommGrpCat.of (Ext M S.X₂ (n + 1))).isZero_of_subsingleton.eq_zero_of_tgt _)
+  exact (AddCommGrpCat.epi_iff_surjective _).mp epi
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/Ext/DimensionShifting.lean]:
```suggestion
    [Injective S.X₂] : Function.Surjective (h.extClass.postcomp M (rfl : n + 1 = n + 1)) :=
  fun x ↦ Ext.covariant_sequence_exact₁ M h x (Ext.eq_zero_of_injective _) rfl
```
